US05891889
Step B: Preparation of Methyl N-tert-butoxycarbonyl-2-(n-butyl)-piperidine-4-carboxylate
A mixture of methyl 2-(n-but-1-ynyl)pyridine-4-carboxylate (3.0 g, 15.8 mmol) and platinum (IV) oxide (0.3 g) in methanol (300 mL) acidified with anhydrous hydrochloride gas (~2%) was hydrogenated at room temp. at 55 psi overnight. The resultant mixture was filtered through a plug of Celite, and the filtrate was concentrated under vacuum. The residue was dissolved in mixture of diisopropylethylamine (6.9 mL, 39 mmol) and dichloromethane (60 mL), and treated with di-tert-butyl dicarbonate (4.1 g, 19 mmol). The reaction mixture was stirred at room temp. overnight. The product mixture was concentrated and the residue was partitioned between dichloromethane and aqueous sodium bicarbonate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 15% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | methyl 2-(n-but-1-ynyl)pyridine-4-carboxylate | 15.8 mmol, 3.0 g | C(#CCC)C1=NC=CC(=C1)C(=O)OC | C11H11NO2
reactant | hydrochloride | Cl | ClH
reactant | diisopropylethylamine | 39 mmol, 6.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 19 mmol, 4.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 300 mL | CO | CH4O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | platinum (IV) oxide | 0.3 g | [Pt](=O)=O
product | Methyl N-tert-butoxycarbonyl-2-(n-butyl)-piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1C(CC(CC1)C(=O)OC)CCCC | C16H29NO4
